US05324747
A mixture of 1.1 g (2.63 mmol) of 3-(acetylamino)-5-(octadecyloxy)benzenamine, 4.2 ml (26 mmol) of benzyl bromoacetate, 1.4 g (6.6 mmol) of 1,8-bis(dimethylamino)naphthalene and 0.4 g (2.63 mmol) of sodium iodide in 40 ml of acetronitrile and 5 ml of DMF was stirred at reflux for 48 hours. The solvents were removed at reduced pressure and the residue was purified by HPLC using 35% ethyl acetate-hexane to give 0.3 g (16% yield, mp 89°-90°) of N-[3-(acetylamino)-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine benzyl ester. The structure was confirmed by nmr and mass spectra.

reactant | 3-(acetylamino)-5-(octadecyloxy)benzenamine | 2.63 mmol, 1.1 g | C(C)(=O)NC=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)N | C26H46N2O2
reactant | benzyl bromoacetate | 26 mmol, 4.2 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | 6.6 mmol, 1.4 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 2.63 mmol, 0.4 g | [I-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[3-(acetylamino)-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine benzyl ester | 0.3 g, 16% yield | C(C1=CC=CC=C1)OC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)NC(C)=O)=O | C44H62N2O6
